US07932281B2
Synthesis of (4-propylamino-butyl)-carbamic acid t-butyl ester
In methanol (6.0 ml), (4-amino-butyl)-carbamic acid t-butyl ester (400.0 mg) was dissolved. After acetic acid (0.12 ml) and sodium cyanoborohydride (172.5 mg) were added to the solution, propionaldehyde (0.155 ml) was dropped thereto and the whole was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was distilled off and the residue was dissolved in chloroform and washed with a 1 mol/l sodium hydroxide aqueous solution, followed by extraction with chloroform. The organic layer was washed with a saturated saline solution and dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off. The residue was purified through silica gel column chromatography (hexane/ethyl acetate), thereby obtaining the subject compound (339.6 mg) as a colorless oily substance.

reactant | (4-amino-butyl)-carbamic acid t-butyl ester | 400.0 mg | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | acetic acid | 0.12 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 172.5 mg | C(#N)[BH3-].[Na+]
reactant | propionaldehyde | 0.155 ml | C(CC)=O | C3H6O
solvent | methanol | 6.0 ml | CO | CH4O
product | (4-propylamino-butyl)-carbamic acid t-butyl ester | 339.6 mg | C(C)(C)(C)OC(NCCCCNCCC)=O | C12H26N2O2
